US04486443
A stirred solution of diethyl 2-aminononanedioate (10 g) in ethanol (77 ml) was cooled in ice-water and treated with 2N hydrochloric acid (38.6 ml) followed by a solution of potassium cyanate (6.255 g) in water (20 ml). The cooling bath was removed and the suspension was stirred for 7 hours at room temperature then set aside overnight. The ethanol was evaporated in vacuo and the residue was shaken with water and chloroform; the chloroform phase was separated, washed with water and dried (MgSO4), and the chloroform was evaporated to give an oil which was heated on the steam bath for 6 hours. The resulting oil crystallised on standing at room temperature. The crystals were stirred with ether and collected, affording pure diethyl 2-ureidononanedioate, m.p. 79°-80° C.

reactant | diethyl 2-aminononanedioate | 10 g | NC(C(=O)OCC)CCCCCCC(=O)OCC | C13H25NO4
reactant | hydrochloric acid | 2N, 38.6 ml | Cl | ClH
reactant | potassium cyanate | 6.255 g | [O-]C#N.[K+]
solvent | ethanol | 77 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | diethyl 2-ureidononanedioate | N(C(=O)N)C(C(=O)OCC)CCCCCCC(=O)OCC | C14H26N2O5
